US06130339
To a refluxing solution of 1-bromo-4-nitrobenzene (0.80 g, 3.98 mmol) in tolulene (200 mL) was added tetrakis(triphenylphosphine)palladium(0) (75 mg). After 20 min, 2-(tributylstannyl)-3,4-didecyloxythiophene (2.87 g, 4.19 mmol) was added via a syringe. After complete addition, the mixture was refluxed for a total of 15 h. After cooling, the mixture was filtered and evaporated to afford a solid. Filtration using hot hexane gave 1-(3,4-didecyloxy)thien-2-yl)-4-nitrobenzene, recrystallized from ethanol containing 2% acetone, 1.17 g, yield=57%, mp=40-41.5° C. IR (KBr) 3127, 2919, 1594, 1512, 1464, 1339 and 848. 1H NMR (δ ppm): 0.880 (t, J=7.2 Hz, 6H), 1.411 (m, 28H), 1.769 (m, 4H), 3.986 (t, J=7.2 Hz, 2H), 4.092 (t, J=7.2 Hz, 2H), 6.263 (s, 1H), 7.903 (d, J=10.2 Hz, 2H) and 8.208 (d, J=10.2 Hz, 2H). 13C NMR (δ ppm): 14.26, 22.69, 29.34, 29.60, 30.12, 30.64, 30.73, 31.71, 31.91, 32.37, 70.18, 73.09, 97.19, 122.46, 123.94, 126.94, 140.16, 145.08, 145.94 and 150.98. MS(EI) m/z (rel int): 517 [(M)+, 42], 377 [(M+ --C10H20), 18], 359 [(M+ --C10H22O),5], 333 [(M+ --C11H20S), 3],237 [(M+ --C20H40), 55] and 190 [(M+ --C20H41NO2), 8]. Anal. Calcd for C30H47NO4S: C, 69.59; H, 9.15; N, 2.71; S, 6.19. Found: C, 69.61; H, 9.20; N, 2.63; S, 6.06.

reactant | 1-bromo-4-nitrobenzene | 3.98 mmol, 0.80 g | BrC1=CC=C(C=C1)[N+](=O)[O-] | C6H4BrNO2
reactant | 2-(tributylstannyl)-3,4-didecyloxythiophene | 4.19 mmol, 2.87 g | C(CCC)[Sn](C=1SC=C(C1OCCCCCCCCCC)OCCCCCCCCCC)(CCCC)CCCC
catalyst | tetrakis(triphenylphosphine)palladium(0) | 75 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-nitrobenzene | yield=57% | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
